US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, furfurylamine and DIEA to give 2-[(furan-2-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one LC-MS m/e 336 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | furfurylamine | C(C1=CC=CO1)N | C5H7NO
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | 2-[(furan-2-ylmethyl)-amino]-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | O1C(=CC=C1)CNC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C18H13N3O2S
